US04638060
(C) N-(t-Butoxycarbonyl)-α-(1-hydroxycyclopentyl)-glycine
A solution of N-(t-butoxycarbonyl)-α-(1-hydroxycyclopentyl)glycine, benzyl ester (1.81 g, 4.98 mmoles) in 30 ml of absolute ethanol at 25° C. was treated with 0.4 g of 10% palladium on charcoal and hydrogen at one atmosphere for 2.5 hours. The catalyst was filtered and the solvent evaporated. Benzene was added and evaporated. Crystallization from isopropyl ether (first crop) and hexane (second crop) gave a total of 1.07 g of product, melting point 132°-134° C.

reactant | N-(t-butoxycarbonyl)-α-(1-hydroxycyclopentyl)glycine, benzyl ester | 4.98 mmoles, 1.81 g | C(C)(C)(C)OC(=O)NC(C(=O)OCC1=CC=CC=C1)C1(CCCC1)O | C19H27NO5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.4 g | [Pd] | Pd
product | N-(t-Butoxycarbonyl)-α-(1-hydroxycyclopentyl)-glycine | 1.07 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C1(CCCC1)O | C12H21NO5
